US05521213
Step 1: 2-phenoxy-1-(4-(methylthio)phenyl)ethanone
To a solution of phenol (9.4 g) and 2-bromo-1-(4-(methylthio)phenyl)ethanone (12.5 g) in 500 mL of acetone was added K2CO3 (13.8 g). The mixture was refluxed for 12 h, then diluted with 500 mL of 1:1 hexane/EtOAc. The solid was removed by filtration and the filtrate was concentrated. The residue was dissolved in Et2O (500 mL), washed with 1N NaOH (100 ml) and dried over MgSO4. After filtration and concentration, the title compound (9 g) was collected by filtration and air dried.

reactant | phenol | 9.4 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2-bromo-1-(4-(methylthio)phenyl)ethanone | 12.5 g | BrCC(=O)C1=CC=C(C=C1)SC | C9H9BrOS
reactant | K2CO3 | 13.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 500 mL | CC(=O)C | C3H6O
solvent | hexane EtOAc | 500 mL | CCCCCC.CCOC(=O)C
product | 2-phenoxy-1-(4-(methylthio)phenyl)ethanone | O(C1=CC=CC=C1)CC(=O)C1=CC=C(C=C1)SC | C15H14O2S
